US04791209
A mixture of 4-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole (7.7 g), potassium carbonate (7.1 g), allyl bromide (6.0 g) and DMF (100 ml) was stirred at 50°-60° C. for 3 hours. After cooling the mixture, water was added and the mixture was extracted with ether. The ether layer was washed with water and dried, and the solvent was distilled off to obtain 8.8 g of 6-allyloxy-4-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole. This compound (8.8 g) was refluxed in 100 ml of aniline for 3.5 hours. After cooling the mixture, concentrated hydrochloric acid and then water were added and the mixture was extracted with ether. The ether layer was washed with water and dried. After distilling off the solvent, the residue was purified by column chromatography using 1% methanol/methylene chloride as an eluant, and 6.3 g of 7-allyl-4-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole (m.p. 211°-212° C.) was obtained. This compound (6.4 g) was dissolved in 300 ml of methylene chloride and 10.2 g of m-chloroperbenzoic acid was slowly added to the solution while it was stirred and cooled, and the stirring was continued for 3 hours. After cooling, water and then 50 ml of a 2N sodium hydroxide aqueous solution were added to the mixture, which was extracted with methylene chloride. The mehtylene chloride layer was washed with water and dried, then the solvent was distilled off to yield 5 g of 4-chloro-7,8-dihydro-3-(2-fluorophenyl)furo[2,3-g]-1,2-benzisoxazole-7-methanol. m.p. 109.5°-111° C. This compound exhibited a mass spectrum having a molecular ion peak at m/e 319.

reactant | 4-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | 7.7 g | ClC1=CC(=CC2=C1C(=NO2)C2=C(C=CC=C2)F)O | C13H7ClFNO2
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 6.0 g | C(C=C)Br | C3H5Br
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-allyloxy-4-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole | 8.8 g | C(C=C)OC1=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C(=C1)Cl | C16H11ClFNO2
